US04623662
A solution of 1.56 g of phenyl chloroformate in 50 ml of ether was added dropwise to a stirred solution of 2.55 g of 3-chloroaniline in 35 ml of ether. The mixture was stirred for one hour at room temperature and then filtered. The filtrate was evaporated and the residue crystallized from hexane to yield phenyl N-(3-chlorophenyl)-carbamate.

reactant | phenyl chloroformate | 1.56 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 3-chloroaniline | 2.55 g | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 35 ml | CCOCC | C4H10O
product | phenyl N-(3-chlorophenyl)-carbamate | ClC=1C=C(C=CC1)NC(OC1=CC=CC=C1)=O | C13H10ClNO2
